US20010047038A1
2-[[(5-Methyl-1H-benzimidazol-2-yl)thio]methyl]-5,6-dimethylbenzenamine
The title compound was prepared by the method of Example 1 using 207 mg of 2-mercapto-5-methylbenzimidazole instead of 2-mercaptobenzimidazole and 260 mg of 2-(chloromethyl)-5,6-dimethylaniline hydrochloride instead of 2-(chloromethyl)-N,N-dimethylaniline in isopropyl alcohol. The basic extraction used 10% sodium hydroxide instead of sodium carbonate. The dichloromethane extract was dried over sodium sulfate, filtered, and concentrated in vacuo to 274 mg of the title compound as a gum. The compound was used in subsequent reactions without further purification.

reactant | 2-mercapto-5-methylbenzimidazole | 207 mg | SC=1NC2=C(N1)C=CC(=C2)C | C8H8N2S
reactant | 2-(chloromethyl)-5,6-dimethylaniline hydrochloride | 260 mg | Cl.ClCC1=C(N)C(=C(C=C1)C)C
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-[[(5-Methyl-1H-benzimidazol-2-yl)thio]methyl]-5,6-dimethylbenzenamine | CC1=CC2=C(NC(=N2)SCC2=C(C(=C(C=C2)C)C)N)C=C1 | C17H19N3S
